US07037935B2
In an analogous manner to that described in Example 36c), the reaction of 6-(4-fluoro-benzyloxy)-pyridin-3-ylamine with itaconic acid yields the crude (RS)-1-[6-(4-fluoro-benzyloxy)-pyridin-3-yl]-5-oxo-pyrrolidine-3-carboxylic acid as a green solid (yield 47% of theory).

reactant | 6-(4-fluoro-benzyloxy)-pyridin-3-ylamine | FC1=CC=C(COC2=CC=C(C=N2)N)C=C1 | C12H11FN2O
reactant | itaconic acid | C(C(=C)CC(=O)O)(=O)O | C5H6O4
product | (RS)-1-[6-(4-fluoro-benzyloxy)-pyridin-3-yl]-5-oxo-pyrrolidine-3-carboxylic acid | yield 47% | FC1=CC=C(COC2=CC=C(C=N2)N2CC(CC2=O)C(=O)O)C=C1 | C17H15FN2O4
